US05663162
a) 2-(tert-Butoxycarbonylamino)methyl-4-methoxymethylthiazole
0.412 g of 2-(tert-butoxycarbonylamino)methyl-4-hydroxymethylthiazole was dissolved in 8 ml of acetonitrile. To this solution were added 0.98 g of silver oxide and 0.5 ml of methyl iodide, and the mixture was stirred at room temperature for 6 hours. The reaction solution was filtered, and then concentrated to dryness to give 0.385 g (yield 89%) of the title compound.

reactant | 2-(tert-butoxycarbonylamino)methyl-4-hydroxymethylthiazole | 0.412 g | C(C)(C)(C)OC(=O)NCC=1SC=C(N1)CO | C10H16N2O3S
reactant | methyl iodide | 0.5 ml | CI | CH3I
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
catalyst | silver oxide | 0.98 g | [Ag]=O
product | 2-(tert-Butoxycarbonylamino)methyl-4-methoxymethylthiazole | 0.385 g, yield 89% | C(C)(C)(C)OC(=O)NCC=1SC=C(N1)COC | C11H18N2O3S
